US05342724
Synthesis of bis(2-hydroxymethylphenyl) disulfide
A solution of 30.8 g (0.20 mol) of o-mercaptobenzoic acid in 300 ml of dioxane was added to a mixture of 15.2 g (0.40 mol) lithium aluminum hydride in 300 ml of dioxane. 160 ml of tetrahydrofuran ("THF") was slowly added to this mixture with some loss of material due to bumping. The mixture was stirred for 2 hours followed by the slow addition of 15.2 ml of water, then 15.2 ml of 15% NaOH and finally 45.6 ml of water. The mixture was filtered with a methanol wash and the filtrate was concentrated to 20.0 g of oil. Methanol (250 ml) and 18.1 g (0.07 mol) of iodine were added and the mixture was stirred over the weekend. An equal volume of saturated NaCl solution was added and the solid was collected, washed with water, and recrystallized from aqueous ethanol. The yield of bis(2-hydroxymethylphenyl) disulfide was 10.0 g and had amp of 138.5°-139.5° C.

reactant | o-mercaptobenzoic acid | 0.20 mol, 30.8 g | SC1=C(C(=O)O)C=CC=C1 | C7H6O2S
reactant | lithium aluminum hydride | 0.40 mol, 15.2 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 15.2 ml | [OH-].[Na+]
reactant | iodine | 0.07 mol, 18.1 g | II | I2
reactant | NaCl | [Na+].[Cl-]
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 300 ml | O1CCOCC1 | C4H8O2
solvent | Methanol | 250 ml | CO | CH4O
solvent | water | 45.6 ml | O | H2O
solvent | water | 15.2 ml | O | H2O
solvent | tetrahydrofuran | 160 ml | O1CCCC1 | C4H8O
product | bis(2-hydroxymethylphenyl) disulfide | OCC1=C(C=CC=C1)SSC1=C(C=CC=C1)CO | C14H14O2S2
